US07544685B2
1c, (+)-(S)-3-{2-[4-(1H-Pyrrolo[2,3-c]pyridin-5-yl)-piperazin-1-yl]-ethyl}-2,3-dihydro-1H-indole-1-carboxylic acid amide
from 5-piperazin-1-yl-1H-pyrrolo[2,3-c]pyridine and (S)-3-(2-bromoethyl)-2,3-dihydro-1H-indole-1-carboxylic acid amide. Assignment of the optical rotation was done in dimethyl sulfoxide.

reactant | 5-piperazin-1-yl-1H-pyrrolo[2,3-c]pyridine | N1(CCNCC1)C=1C=C2C(=CN1)NC=C2 | C11H14N4
reactant | (S)-3-(2-bromoethyl)-2,3-dihydro-1H-indole-1-carboxylic acid amide | BrCC[C@@H]1CN(C2=CC=CC=C12)C(=O)N | C11H13BrN2O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | (+)-(S)-3-{2-[4-(1H-Pyrrolo[2,3-c]pyridin-5-yl)-piperazin-1-yl]-ethyl}-2,3-dihydro-1H-indole-1-carboxylic acid amide | N1C=CC=2C1=CN=C(C2)N2CCN(CC2)CC[C@@H]2CN(C1=CC=CC=C21)C(=O)N | C22H26N6O
